US06291475B1
(a) 4-(3-Bromopropoxy)benzonitrile
1,3-Dibromopropane (1.02 L; 10 mol) was added to a stirred suspension of p-cyanophenol (238 g; 2 mol), K2CO3 (276.4 g; 2 mol) in MeCN (2.7 L). The reaction mixture was refluxed for 4 h, filtered and concentrated. The residue was recrystallized from iso-propyl ether to give the sub-title compound in a 69% yield.

reactant | 1,3-Dibromopropane | 10 mol, 1.02 L | BrCCCBr | C3H6Br2
reactant | p-cyanophenol | 2 mol, 238 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | K2CO3 | 2 mol, 276.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 2.7 L | CC#N | C2H3N
product | 4-(3-Bromopropoxy)benzonitrile | 69% yield | BrCCCOC1=CC=C(C#N)C=C1 | C10H10BrNO
